US08012966B2
A stirred mixture of 2-amino-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester hydrochloride (7.54 g, 32 mmol), 2,4-dioxo-piperidine-1-carboxylic acid tert-butyl ester (6.2 g, 29.1 mmol) and sodium acetate (2.39 g, 29.1 mmol) in water (35 ml) and dioxane (35 ml) was heated to reflux for 2 hours. The mixture was cooled down to room temperature, and extracted with 15 to 1 solvent mixture of ethyl acetate and methanol (160 ml×3), the combined organic phase was washed with saturated sodium chloride, dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure, the residue was purified by the silica gel column chromatography with dichloromethane:tetrahydrofuran:methanol (40:5:1) as eluents to give 3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (2.8 g, 35%) as a yellow solid.

reactant | 2-amino-4,4,4-trifluoro-3-oxo-butyric acid ethyl ester hydrochloride | 32 mmol, 7.54 g | Cl.C(C)OC(C(C(C(F)(F)F)=O)N)=O
reactant | 2,4-dioxo-piperidine-1-carboxylic acid tert-butyl ester | 29.1 mmol, 6.2 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)=O)=O | C10H15NO4
reactant | sodium acetate | 29.1 mmol, 2.39 g | C(C)(=O)[O-].[Na+]
solvent | water | 35 ml | O | H2O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 3-trifluoromethyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 2.8 g, 35% | C(C)OC(=O)C1=C(C=2C(NCCC2N1)=O)C(F)(F)F | C11H11F3N2O3
